US05571816
1.52 ml of a 6.6 molar solution of HCl in ether were added dropwise to a solution of 3.80 g (9 mmol) of 4-amino-2-(4,4-dimethyl-2-oxo-1-imidazolidinyl)-pyrimidine-5-carboxylic acid N-ethyl-N-(3-trifluoromethylphenyl)amide prepared as in Example 1 in 20 ml of acetone at room temperature, and the resulting suspension was stirred while cooling in ice for 20 minutes. The crystals were then filtered off with suction, washed with acetone and ether and dried in vacuo (6-7 mbar) at 100° for 10 hours. 3.83 g (=92.7% yield) of 4-amino-2-(4,4-dimethyl-2-oxo-1-imidazolidinyl)pyrimidine-5-carboxylic acid N-ethyl-N-(3-trifluoromethylphenyl)amide hydrochloride were obtained, melting point 264°-265° (decomposition).

reactant | HCl | Cl | ClH
reactant | 4-amino-2-(4,4-dimethyl-2-oxo-1-imidazolidinyl)-pyrimidine-5-carboxylic acid N-ethyl-N-(3-trifluoromethylphenyl)amide | 9 mmol, 3.80 g | C(C)N(C(=O)C=1C(=NC(=NC1)N1C(NC(C1)(C)C)=O)N)C1=CC(=CC=C1)C(F)(F)F | C19H21F3N6O2
solvent | ether | CCOCC | C4H10O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 4-amino-2-(4,4-dimethyl-2-oxo-1-imidazolidinyl)pyrimidine-5-carboxylic acid N-ethyl-N-(3-trifluoromethylphenyl)amide hydrochloride | 3.83 g, 92.7% yield | Cl.C(C)N(C(=O)C=1C(=NC(=NC1)N1C(NC(C1)(C)C)=O)N)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C19H21F3N6O2.ClH/c1-4-27(12-7-5-6-11(8-12)19(20,21)22)15(29)13-9-24-16(25-14(13)23)28-10-18(2,3)26-17(28)30;/h5-9H,4,10H2,1-3H3,(H,26,30)(H2,23,24,25);1H
